US08357694B2
(S)-6-(2-chlorophenyl)-N-(4-(2-(piperidin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using (S)-4-(6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, piperidine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=164-167° C. 1H NMR (DMSO) 400 MHz δ 10.10 (bs, 1H), 9.64 (s, 1H), 8.36-8.32 (m, 1H), 8.30 (s, 1H), 7.80 (d, J=8.4 Hz, 2H), 7.53-7.43 (m, 3H), 7.26-7.20 (m, 3H), 7.18-7.13 (m, 1H), 7.00 (d, J=7.2 Hz, 1H), 6.79-6.75 (m, 1H), 4.77 (t, J=6.8 Hz, 1H), 3.51-3.46 (m, 2H), 3.25-3.09 (m, 4H), 3.01-2.96 (m, 2H), 2.93-2.83 (m, 2H), 1.80-1.67 (m, 5H), 1.41-1.31 (m, 1H). LCMS 495 [M+H]. Calc. for C31H31ClN4.2.07 Hydrochloric acid.0.08 Ethyl Acetate: C, 65.13; H, 5.88; N, 9.70. Found C, 65.13; H, 5.84; N, 9.69.

reactant | (S)-4-(6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@H](CC2C=N1)C1=C(C=CC=C1)Cl)C=CC=C3 | C27H24ClN3O3S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-6-(2-chlorophenyl)-N-(4-(2-(piperidin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC1=C(C=CC=C1)[C@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCCCC2 | InChI=1S/C31H31ClN4.ClH/c32-29-11-5-4-9-26(29)28-20-23-21-33-31(35-30(23)27-10-3-2-8-25(27)28)34-24-14-12-22(13-15-24)16-19-36-17-6-1-7-18-36;/h2-5,8-15,21,28H,1,6-7,16-20H2,(H,33,34,35);1H/t28-;/m0./s1
